US05990105
0.184 g (0.0005 mol) of 6-bromo-4-(4-nitrobenzenesulphonyl)-pyridine-2-carbonitrile was dissolved in 10 ml of methanol/dioxane, treated with 0.37 g of iron powder and a solution of 0.37 g of NH4Cl in 10 ml of water and boiled at reflux for 2 hrs. Then, the reaction mixture was filtered and the filter cake was rinsed with methanol and ethyl acetate. The filtrate was concentrated and the residue was dissolved in ethyl acetate, washed with sat. NaHCO3 solution, water and sat. sodium chloride solution, dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:4. There was obtained 0.13 g (75%) of 4-(4-aminobenzenesulphonyl)-6-bromopyridine-2-carbonitrile as yellow crystals; m.p.: 186-188° C.

reactant | 6-bromo-4-(4-nitrobenzenesulphonyl)-pyridine-2-carbonitrile | 0.0005 mol, 0.184 g | BrC1=CC(=CC(=N1)C#N)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H6BrN3O4S
reactant | NH4Cl | 0.37 g | [NH4+].[Cl-]
solvent | methanol dioxane | 10 ml | CO.O1CCOCC1
solvent | water | 10 ml | O | H2O
catalyst | iron | 0.37 g | [Fe] | Fe
product | 4-(4-aminobenzenesulphonyl)-6-bromopyridine-2-carbonitrile | 0.13 g, 75% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)C#N | C12H8BrN3O2S
